US07629362B2
A solution (10 ml) of 1.50 g (5.70 mmol) of the resulting N-oxide substance in phosphorus oxychloride was stirred at 80° C. for 1 hour. The reaction solution was concentrated in vacuo, a saturated aqueous solution of sodium hydrogen carbonate was added to the residue followed by extracting with chloroform and the organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous saline solution. After drying and concentrating, the resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=2:1) to give 625 mg (yield: 58%) of 2-chloro-5-chloromethyl-6-cyanopyridine as a white solid. Phenol (30 mg; 0.32 mmol) and 44 mg (0.32 mmol) of sodium hydrogen carbonate were added to a solution (5 ml) of 50 mg (0.27 mmol) of 2-chloro-5-chloromethyl-6-cyanopyridine in acetonitrile followed by stirring at room temperature for 8 hours and 30 minutes. Water was added to the reaction solution followed by extracting with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, dried and concentrated in vacuo and the resulting residue was purified by a thin-layer column chromatography (hexane:ethyl acetate=6:1) to give 61 mg (yield: 93%) of 2-chloro-6-cyano-5-phenoxymethylpyridine as a white solid.

reactant | Phenol | 0.32 mmol, 30 mg | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydrogen carbonate | 0.32 mmol, 44 mg | C(O)([O-])=O.[Na+]
reactant | 2-chloro-5-chloromethyl-6-cyanopyridine | 0.27 mmol, 50 mg | ClC1=NC(=C(C=C1)CCl)C#N | C7H4Cl2N2
reactant | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-chloro-6-cyano-5-phenoxymethylpyridine | 61 mg, yield: 93% | ClC1=NC(=C(C=C1)COC1=CC=CC=C1)C#N | C13H9ClN2O
